reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]([H:14])=[C:7]1[H:15]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@:6]2([H:14])[C:5]([H:12])([H:13])[C@:7]12[H:15],96.12964077243349
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],73.3253202618357
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]([H:14])[O:6][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],59.08488926710071
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[C:6]1[H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],72.99337184706431
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:7](=[C:6])[H:11])([H:8])([H:9])[H:10],51.478602796403706
[N:1]([C:2][H:8])([O:6][C@@:5]1([H:11])[O:3][C:4]1([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],5.3863646301355885
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:6]#[N:7])[H:11])([H:8])[H:10].[C:3](=[C:4]([O:5][H:16])[H:15])([H:12])[H:13].[H:9][H:14],93.9378365223931
[C:1]([O:2]/[C:3](=[C:5](/[C:4]([H:11])([H:12])[H:13])[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],31.839895829667604
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[N:3](=[C:4](/[C:5]#[C:6][H:11])[H:9])\[H:8].[O:1]=[C:2]([H:7])[H:10],89.491239585608
[C:1]1([H:9])([H:10])[C@@:2]2([H:11])[C@@:3]([H:12])(/[C:4]1=[N:5]/[H:8])[N:6]2[C:7]([H:13])([H:14])[H:15]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],78.5624957156995
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:13])[H:14],65.1494993519045
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6][O:7][H:17])([H:8])([H:9])[H:10],80.9893815954007
[C:1]1([H:6])([H:8])[C@:2]([O:3][H:10])([H:9])/[C:4]1=[N:5]/[H:7]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],73.0296315034384
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],58.9675002669787
[C-:1]([N+:2]([C:3](=[O:4])[H:9])([H:7])[H:8])([H:5])[H:6]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],16.349327652703593
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)[H:10]>>[C:1](=[N:2]/[H:9])(\[C:3]([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)([H:8])[H:10])[H:7],75.779456011132
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:9][H:10],76.6045453165177
[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C@@:4]2([H:12])[O:5][C@@:6]1([O:7][H:8])[H:13]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],38.867036421880385
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]([O:4][H:7])([H:8])[H:9])[C:5]#[N:6],43.768212098363286
[N:1]([C:2]1=[O+:3][C-:5]=[C:4]1[N+:7]#[C-:6])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],17.50128724815012
[C:1](/[C:2](=[C:3](/[O:4][C:5]([H:13])([H:14])[H:15])[H:12])[H:10])([H:6])([H:8])[H:11].[H:7][H:9]>>[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],109.12899315300392
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([O:5][H:11])=[C:6]1[H:12])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],61.18626261222849
[C:1]([N+:2]([C:3]([C:5]#[N:6])([H:11])[H:12])([C-:4]([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],37.9953970893818
[O:1]([C:2][C@@:7]1([H:15])[C@:4]([C:3]([H:9])([H:10])[H:11])([O:5][H:12])[C:6]1([H:13])[H:14])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],34.5567797132263
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])=[C:5]=[C:6]([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],82.31442108402798
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2]([N+:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12].[C:1]([H:8])([H:9])([H:10])[H:15],94.7392859829086
